US08536097B2
Step 4: Synthesis of methyl 3-fluoro-2-methyl-4-(pentafluoroethyl)benzoate
2.33 g (8.56 mmol) of 3-fluoro-2-methyl-4-(pentafluoroethyl)benzoic acid were introduced into 30 ml of methanol and admixed with 2 ml of concentrated sulfuric acid. The mixture was subsequently heated at reflux until a check by HPLC indicated full conversion. The contents were freed from the solvent, and the residue was taken up in water. The mixture was extracted twice with ethyl acetate, and the combined organic phases were washed once with saturated aqueous sodium hydrogen-carbonate solution. The organic phase was dried and freed from the solvent. The residue obtained was 2.1 g of clean product.

reactant | 3-fluoro-2-methyl-4-(pentafluoroethyl)benzoic acid | 8.56 mmol, 2.33 g | FC=1C(=C(C(=O)O)C=CC1C(C(F)(F)F)(F)F)C | C10H6F6O2
reactant | methanol | 30 ml | CO | CH4O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | methyl 3-fluoro-2-methyl-4-(pentafluoroethyl)benzoate | FC=1C(=C(C(=O)OC)C=CC1C(C(F)(F)F)(F)F)C | C11H8F6O2
